US08461158B2
A mixture of 0.60 g (1.1 mmol) of tert-butyl 4-[4-[2-(difluoromethyl)-4-hydroxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate, 0.47 g (3.3 mmol) of 3-bromo-1-propanol, and 0.80 g (5.5 mmol) of powdered K2CO3 in 20 mL dry DMF was stirred at room temperature for 8 hrs. Dilution with water gave 0.66 g, (99% yield) of tert-butyl 4-[4-[2-(difluoromethyl)-4-(3-hydroxypropoxy)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate: 1H NMR (CDCl3) δ 7.94 (dd, J=8.4. 0.7 Hz, 1H), 7.49 (t, JHF=53.4 Hz, 1H), 7.34 (t, J=8.1 Hz, 1H), 6.92 (dd, J=8.0, 0.6 Hz, 1H), 4.47 (t, J=5.9 Hz, 2H), 3.98 (t, J=5.4 Hz, 2H), 3.87 (m, 8H), 3.79 (m, 4H), 3.54 (m, 4H), 3.30 (m, exchangeable with D2O, 1H), 2.14 (pentet, J=5.8 Hz, 2H), 1.50 (s, 9H).

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-hydroxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate | 1.1 mmol, 0.60 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2O)F | C24H30F2N8O4
reactant | 3-bromo-1-propanol | 3.3 mmol, 0.47 g | BrCCCO | C3H7BrO
reactant | K2CO3 | 5.5 mmol, 0.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[4-[2-(difluoromethyl)-4-(3-hydroxypropoxy)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | 99% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OCCCO)F | C27H36F2N8O5
